US04734419
To a solution of 4-bromo-2-fluorobenzylamine (2.3 g) and triethylamine (1.55 ml) in chloroform (40 ml) was added dropwise a solution of 4-bromo-2-nitrobenzoyl chloride (2.69 g) in chloroform (10 ml) at 0° C. with stirring and the mixture was stirred at the same temperature for 1 hour. The reaction mixture was washed in turn with diluted aqueous hydrochloric acid and water, and then dried. Evaporation of the solvent followed by recrystallization from diethyl ether gave 4-bromo-N-(4-bromo-2-fluorobenzyl)-2-nitrobenzamide (3.60 g).

reactant | 4-bromo-2-fluorobenzylamine | 2.3 g | BrC1=CC(=C(CN)C=C1)F | C7H7BrFN
reactant | triethylamine | 1.55 ml | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-2-nitrobenzoyl chloride | 2.69 g | BrC1=CC(=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3BrClNO3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-N-(4-bromo-2-fluorobenzyl)-2-nitrobenzamide | 3.60 g | BrC1=CC(=C(C(=O)NCC2=C(C=C(C=C2)Br)F)C=C1)[N+](=O)[O-] | C14H9Br2FN2O3
